US06969725B2
In analogy to the procedure described in example 1 g], [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid as colorless liquid, which can be separated into its antipodes by methods known in the art, such as separation of the antipodes via diastereomeric salts by crystallization with optically pure amines such as e.g. (R) or (S)-1-phenyl-ethylamine, (R) or (S)-1-naphthalen-1-yl-ethylamine, brucine, quinine and quinidine or by separation of the antipodes by specific chromatographic methods using either a chiral adsorbens or a chiral eluent to give the title compound.

reactant | [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1)C1=CC(=CC=C1)OC)C)OCC)=O | C25H29NO6
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCC=1N=C(OC1)C1=CC(=CC=C1)OC)C | C23H25NO6
